US07670504B2
9.8 g of trans-4-(trans-4-vinylcyclohexyl)cyclohexylmethyl methanesulfonate and 5.96 g of 2,3-difluoro-4-ethoxyphenol were dissolved in 90 mL of DMF. 10.4 g of tripotassium phosphate was added, followed by stirring at 90 to 100° C. for 3 hours. The reaction mixture was poured into water, extracted with toluene, washed in turn with water, 10% hydrochloric acid, water, and saturated saline and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified in turn by subjecting to column chromatography (silica gel/toluene), recrystallization (methanol/acetone), column chromatography (alumina/acetone), washing with ion-exchange water, silica treatment, and recrystallization (methanol/acetone) to obtain 8.5 g of 4-ethoxy-2,3-difluoro-1-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxybenzene (IIIa) as a colorless crystal.

reactant | trans-4-(trans-4-vinylcyclohexyl)cyclohexylmethyl methanesulfonate | 9.8 g | CS(=O)(=O)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=C | C16H28O3S
reactant | 2,3-difluoro-4-ethoxyphenol | 5.96 g | FC1=C(C=CC(=C1F)OCC)O | C8H8F2O2
reactant | tripotassium phosphate | 10.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 4-ethoxy-2,3-difluoro-1-(trans-4-(trans-4-vinylcyclohexyl)cyclohexyl)methoxybenzene | 8.5 g | C(C)OC1=C(C(=C(C=C1)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=C)F)F | C23H32F2O2
